US09303007B2
A solution of sodium carbonate (5.43 g, 51.3 mmol) in water (35 mL) was added to a stirred solution of 1-(6-bromonaphthalen-2-yl)ethanone (2.554 g, 10.25 mmol) and 4-acetylphenylboronic acid (2.017 g, 12.30 mmol) in toluene (35.0 mL) and ethanol (35.0 mL) and nitrogen was bubbled through the reaction mixture for 15 min. Then Pd(PPh3)4 (0.237 g, 0.205 mmol) was added, and the reaction was flushed with nitrogen and heated at 95° C. under nitrogen for 8 h and then stirred overnight at rt. The reaction was concentrated to dryness under high vacuum and then partitioned between DCM (˜200 mL) and water (˜150 mL). The organic layer was then washed with brine (˜100 mL), dried (MsSO4), filtered and concentrated. The residue was triturated with MeOH (˜120 mL) and the remaining solids were redissolved into DCM and concentrated to dryness (˜2.7 g of orange solid). This material was dissolved into hot EtOAc (80 mL) and allowed to cool. The resulting solids were collected by filtration and rinsed with Et2O to yield 1-(4-(6-acetylnaphthalen-2-yl)phenyl)ethanone (1.84 g). LC-MS retention time 2.443 min; m/z 288.98 (MH+). LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a PHENOMENEX® Luna 10u C18 3.0×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 4 mL/min, a gradient of 100% Solvent A/0% Solvent B to 0% Solvent A/100% Solvent B, a gradient time of 3 min, a hold time of 1 min, and an analysis time of 4 min where Solvent A was 5% MeOH/95% H2O/10 mM ammonium acetate and Solvent B was 5% H2O/95% MeOH/10 mM ammonium acetate. MS data was determined using a MICROMASS® Platform for LC in electrospray mode. 1H NMR (400 MHz, chloroform-d) δ ppm 8.51 (s, 1H), 8.05-8.16 (m, 5H), 7.98 (d, J=8.8 Hz, 1H), 7.81-7.88 (m, 3H), 2.76 (s, 3H), 2.68 (s, 3H).

reactant | sodium carbonate | 51.3 mmol, 5.43 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1-(6-bromonaphthalen-2-yl)ethanone | 10.25 mmol, 2.554 g | BrC=1C=C2C=CC(=CC2=CC1)C(C)=O | C12H9BrO
reactant | 4-acetylphenylboronic acid | 12.30 mmol, 2.017 g | C(C)(=O)C1=CC=C(C=C1)B(O)O | C8H9BO3
solvent | water | 35 mL | O | H2O
solvent | toluene | 35.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 35.0 mL | C(C)O | C2H6O
catalyst | Pd(PPh3)4 | 0.205 mmol, 0.237 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(4-(6-acetylnaphthalen-2-yl)phenyl)ethanone | 1.84 g | C(C)(=O)C=1C=C2C=CC(=CC2=CC1)C1=CC=C(C=C1)C(C)=O | C20H16O2
